US04927822
5-t-Butyl-3-[N2-(1-(S)-ethoxycarbonyl-3-phenyl propyl)-L-lysyl]-2,3-dihydro-1,3,4-thiadiazole-2-(S)-carboxylic acid hydrochloride
A solution of 5-t-butyl-3-[N2 -(1-(S)-ethoxycarbonyl-3-phenylpropyl)-L-lysyl]-2,3-dihydro-1,3,4-thiadiazole-2-(S)-carboxylic acid (0.97 g, prepared using the appropriate starting material by the process of Example 4) in tetrahydrofuran (20 ml) and water (20 ml) was treated with 1N hydrochloric acid (3.8 ml). The solvents were evaporated and the residue was taken up in a mixture of dichloromethane and toluene. The solvents were removed by evaporation to give the title product (0.9 g) as a white

reactant | 5-t-butyl-3-[N2 -(1-(S)-ethoxycarbonyl-3-phenylpropyl)-L-lysyl]-2,3-dihydro-1,3,4-thiadiazole-2-(S)-carboxylic acid | C(C)(C)(C)C1=NN([C@@H](S1)C(=O)O)C([C@@H](N[C@@H](CCC1=CC=CC=C1)C(=O)OCC)CCCCN)=O | C25H38N4O5S
reactant | water | 20 ml | O | H2O
reactant | hydrochloric acid | 1N, 3.8 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-t-Butyl-3-[N2-(1-(S)-ethoxycarbonyl-3-phenyl propyl)-L-lysyl]-2,3-dihydro-1,3,4-thiadiazole-2-(S)-carboxylic acid hydrochloride | 0.9 g | Cl.C(C)(C)(C)C1=NN([C@@H](S1)C(=O)O)C([C@@H](N[C@@H](CCC1=CC=CC=C1)C(=O)OCC)CCCCN)=O | InChI=1S/C25H38N4O5S.ClH/c1-5-34-23(33)19(15-14-17-11-7-6-8-12-17)27-18(13-9-10-16-26)20(30)29-21(22(31)32)35-24(28-29)25(2,3)4;/h6-8,11-12,18-19,21,27H,5,9-10,13-16,26H2,1-4H3,(H,31,32);1H/t18-,19-,21-;/m0./s1
